US05998424
2-[Bis(tert-butoxycarbonyl)amino]-5-(2'-methylthiophenyl) pyrimidine
2-[Bis(tert-butoxycarbonyl)amino]-5-bromopyrimidine (2.00 g, 5.3 mmol) was dissolved in benzene (130 mL). 2-methylthiophenylboronic acid (2.24 g, 13.3 mmol), aq. sodium carbonate (13 mL, 2.0 M, 26 mmol), tetrabutyl ammonium bromide (86 mg, 0.26 mmol), and bis(triphenylphosphine)palladium(II)chloride (190 mg, 0.27 mmol) were added, and the resulting mixture was first purged with vacuum and argon, then refluxed 17 hours. The cooled mixture was diluted with EtOAc and water. The layers were separated, and the organic was dried over Na2SO4, filtered, and evaporated. The crude product was chromatographed on silica gel (50% EtOAc/hexanes), evaporated, and chromatographed a second time on silica gel (30-50% EtOAc/hexanes) to yield the desired product (2.13 g, 96%). 1H NMR (CDCl3): δ8.81 (s, 2H) , 7.41 (m, 2H) , 7.25 (m, 2H) , 2.39 (s, 3H), 1.49 (s, 18H).

reactant | 2-[Bis(tert-butoxycarbonyl)amino]-5-bromopyrimidine | 5.3 mmol, 2.00 g | C(C)(C)(C)OC(=O)N(C1=NC=C(C=N1)Br)C(=O)OC(C)(C)C | C14H20BrN3O4
reactant | 2-methylthiophenylboronic acid | 13.3 mmol, 2.24 g | CSC1=C(C=CC=C1)B(O)O | C7H9BO2S
reactant | sodium carbonate | 26 mmol, 2.0 M, 13 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 130 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrabutyl ammonium bromide | 0.26 mmol, 86 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.27 mmol, 190 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-[Bis(tert-butoxycarbonyl)amino]-5-(2'-methylthiophenyl) pyrimidine | 2.13 g, 96% | C(C)(C)(C)OC(=O)N(C1=NC=C(C=N1)C1=C(C=CC=C1)SC)C(=O)OC(C)(C)C | C21H27N3O4S
